Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
failure to thrive
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ wit hx of Depression, hyperthyroidism, HOCM s/p ICD 
placement and Alzheimer's disease who presents to the ED from 
her PCPs office with failure to thrive. She has not had almost 
anything to eat in 4 days. She had part of an ensure on 
___, but threw it up, and maybe had 10oz of water today. 
Otherwise no food. She has been more "hazy" than usual. At her 
baseline, she speaks in incomplete sentences, losing her train 
of thought mid-sentence, forgetting names and using frequent 
pronouns. Husband denies any endorsement of localizing symptoms 
or complaints (incontinent of urine and stool at baseline). No 
fevers, no shaking chills. Patient was diagnosed with dementia ___ 
years ago. She lives at home with husband and goes to ___ 
___ 2x/week. Never been hospitalized for failure to thrive. In 
addition to not eating, patient's depression and anxiety 
reportedly worse per husband with more frequent endorsement of 
these. Sleeping 15hrs/day. Currently Husband is handling all 
care at home. No health aids at home.  
In the ED, initial labs notable for 97.7, 79, 107/57, 18, 100% 
RA.  
Labs notable for normal chem 7 with exception of mildly levated 
BUN to 23. Cr. 0.9. LFTs WNL. CBC with WBC of 7.2, 48.5% 
Neutophils. Pt straight cathed for urine which was notable for 
44 WBCs, ___, neg Nitrates. UCx and Blood Cx sent. EKG with NSR 
and unchanged from prior w/o evidence of ischemia. CXR with mild 
cephalization but no obvious infiltrate and unchanged from prior 
(___). Patient was given 1g Ceftriaxone and admitted to the 
medical service for further evalution.  
Upon arrival to the floor, patient sleeping comfortably in bed. 
Able to state her name but otherwise confused and unable to 
participate meaninfully with interview.  
 
Past Medical History:
DEPRESSION  
GASTROESOPHAGEAL REFLUX  
HYPERTHYROIDISM  
ALZHEIMER'S DISEASE  
OSTEOPENIA 
 
Social History:
___
Family History:
strong fam hx of HOCM and sudden cardiac death  

 
Physical Exam:
ADMISSIOn PHYSICAL EXAM:  
Vitals: 97.5; 96/57; 60; 20; 100%RA  
General: opens eyes to voice, oriented to first name only, no 
acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PER  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally in anterior fields, no 
wheezes, rales, rhonchi. Pt would not cooperate to auscultate 
posteriorly  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A&O to first name only, moving all extremities 
purposefully  

DISCHARGE PHYSICAL EXAM:  
Vitals: 98.5 102-121/54-70 61-68 ___ 98-100%RA
General: Very pleasant woman resting comfortably in no acute 
distress, AOx1, answering questions and following commands, 
occasionally with unintelligible speech
HEENT: PERRL, MMM, EOMI
Neck: Supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally in anterior fields, no 
wheezes, rales, rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: A&O to name only, moving all extremities purposefully  
 
Pertinent Results:
ADMISSION LABS:

___ 08:41PM BLOOD WBC-7.2 RBC-4.81 Hgb-14.3 Hct-40.6 MCV-84 
MCH-29.7 MCHC-35.2 RDW-13.3 RDWSD-41.0 Plt ___
___ 10:52PM BLOOD ___ PTT-31.6 ___
___ 08:41PM BLOOD Glucose-111* UreaN-23* Creat-0.9 Na-139 
K-3.6 Cl-102 HCO3-25 AnGap-16
___ 08:41PM BLOOD ALT-9 AST-26 AlkPhos-35 TotBili-0.7
___ 10:00AM BLOOD Calcium-9.6 Phos-4.7* Mg-2.3

PERTINENT LABS:

___ 10:00AM BLOOD VitB12-___*
___ 10:00AM BLOOD TSH-1.6

DISCHARGE LABS:

No labs drawn day of discharge.

MICROBIOLOGY:

___ Urine culture: E. coli, pansensitive
___ Blood culture: Negative
 
Brief Hospital Course:
___ yo woman ___ history of Alzheimer's dementia, depression, 
hyperthyroidism, HOCM s/p ICD placement who presents from PCP's 
office with failure to thrive and refusal of PO for 4 days, 
found to have E. coli UTI.
 
#Failure to thrive: Patient's husband is primary caregiver. He 
reported history or progressive decline due to underlying 
dementia (likely Alzheimer's) with possible subacute worsening 
over week prior to admission when patient started refusing PO 
meds and food. Workup on admission was notable for UTI, for 
which she was treated with 3 doses ceftriaxone. Head imaging was 
deferred given no report of fall and nonfocal neuro exam. TSH 
and B12 were sent which were normal. Mental status improved 
somewhat with treatment for UTI, affect brighter. Patient 
tolerated small amounts of PO. Patient/husband were seen by case 
management; husband was working to establish services at home 
but not interested in SNF placement. Patient discharged home 
with 24 h care by husband and resources for further services.

#UTI: Urine culture on admission growing E. coli. Patient unable 
to report symptoms. She was treated with CTX 1g q24h x 3 days.

#Alzheimer's dementia: Patient with chronic progressive decline. 
Continued outpatient memantine 10mg PO BID and donepezil 5mg 
qHS.

#HOCM: Strong FH with multiple family members with sudden death. 
AICD in place. Home metoprolol was held in house for bradycardia 
and soft blood pressure, to be reconsidered outpatient. Per 
husband family to consider deactivating AICD long term as 
patient's code status may be reassessed.

#Depression: Continued home fluoxetine. Added mirtazapine 7.5 mg 
for appetite stimulation.

# CODE STATUS: Full this admission; however husband and family 
to reassess given patient's declining health. 
# CONTACT: husband ___ ___  

___ issues:
[]Please ensure patient maintains adequate PO intake as 
outpatient.
[]Please ensure patient/husband are adequately set up with home 
services as she requires 24 h care and assistance with ADLs.
[]Usual outpatient metoprolol XL 25 mg held for bradycardia and 
soft BPs in house; please consider restarting if heart rate and 
blood pressure will tolerate
[]Mirtazapine 7.5 mg qHS started for appetite stimulation; 
please follow up and consider stopping fluoxetine
[]Recommend considering nutrition referral for recommendations 
on encouraging PO intake and adequate nutritional status

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Memantine 10 mg PO BID 
3. Donepezil 5 mg PO QHS 
4. Loratadine 10 mg PO DAILY 
5. Fluoxetine 20 mg PO DAILY 

 
Discharge Medications:
1. Donepezil 5 mg PO QHS 
2. Fluoxetine 20 mg PO DAILY 
3. Memantine 10 mg PO BID 
4. Loratadine 10 mg PO DAILY 
5. Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary 
Failure to thrive 
Alzheimer's dementia 
Urinary tract infection 
 
Secondary 
Hypertrophic cardiomyopathy 
Automatic implantable cardioverter-defibrillator 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you did not want to 
eat or drink and were noted to be lightheaded at your primary 
care doctor's office. On admission to the hospital you were 
found to have a urinary tract infection which may have been 
contributing to you feeling unwell and confused; we treated this 
with antibiotics. You were able to eat and drink some again 
after this treatment. We recommend starting a medication called 
mirtazapine that may improve your appetite; you can start this 
when you return home and follow up with your usual doctors.

___ progressive dementia is your major medical problem. You 
were seen by occupational therapy, who recommended 24 hour 
supervision when you return home. Our case managers were able to 
help you and your husband to get set up with home nursing 
assistance and resources for other home health options.

We have scheduled an appointment at your primary care doctor's 
office to ensure that you are still doing well and able to eat 
and drink at home. They can make sure you are doing well on the 
mirtazapine and may be able to refer you to a nutritionist who 
could help make some recommendations to improve your food 
intake. 

It was a pleasure taking care of you during your stay in the 
hospital.

- Your ___ Team

 
Followup Instructions:
___